US05162318
To a solution of N-(2-nitrophenyl)-N',N'-dimethylethylenediamine (149.2 g) in methanol (1500 ml) were added concentrated hydrochloric acid (60 ml) and 10% palladium-on-carbon (15 g). The reaction mixture was stirred under a hydrogen atmosphere at atmospheric pressure for 5.5 hours. The reaction mixture was then filtered and concentrated under reduced pressure to give 149.2 g of N-(2-aminophenyl)-N',N'-dimethylethylenediamine hydrochloride.

reactant | N-(2-nitrophenyl)-N',N'-dimethylethylenediamine | 149.2 g | [N+](=O)([O-])C1=C(C=CC=C1)NCCN(C)C | C10H15N3O2
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | methanol | 1500 ml | CO | CH4O
catalyst | palladium-on-carbon | 15 g | [Pd] | Pd
product | N-(2-aminophenyl)-N',N'-dimethylethylenediamine hydrochloride | 149.2 g | Cl.NC1=C(C=CC=C1)NCCN(C)C | InChI=1S/C10H17N3.ClH/c1-13(2)8-7-12-10-6-4-3-5-9(10)11;/h3-6,12H,7-8,11H2,1-2H3;1H
